US07579466B2
Ethanol (200 mL), acetone (21 mL, 1.5 eq.), and glacial acetic acid (3.0 mL, 0.28 eq.) were added to the aminopyrimidine solution in the hydrogenation flask. After evacuating and purging, the flask was pressurized with H2 (60 psi). The reductive amination was allowed to proceed overnight. TLC on silica using EtOAc as the eluant gave an Rf=0.41 (streaky) for the isopropylamino-pyrimidine and an Rf=0.11 for the starting aminopyrimidine carbamate. Both TLC and LC/MS confirmed complete reaction with virtually no bis-isopropylaminopyrimidine produced. If necessary, HPLC can be used as an alternative means to monitor progress of the reaction. The crude reaction solution was diluted with EtOAc (1 L) and filtered through a pad of basic alumina (400 mL). The alumina was rinsed with EtOAc (200 mL) and EtOH (200 mL) and the combined organic solutions were concentrated in vacuo. The flask was vented under N2. The viscous oil was redissolved in anhydrous toluene (700 mL) and concentrated. After venting the flask under nitrogen, the product was dried again by azeotropic removal of another 400 mL of toluene. A viscous reddish-brown oil was obtained.

reactant | acetone | 21 mL, 1.5 eq. | CC(=O)C | C3H6O
reactant | acetic acid | 3.0 mL, 0.28 eq. | C(C)(=O)O | C2H4O2
reactant | aminopyrimidine | NC1=NC=CC=N1 | C4H5N3
solvent | Ethanol | 200 mL | C(C)O | C2H6O
product | isopropylamino-pyrimidine | C(C)(C)NC1=NC=CC=N1 | C7H11N3
